US08492401B2
DMF (0.15 eq) was added to a solution of 6-hydroxy-5-nitronicotinic acid (1 eq) in SOCl2 (4.7 eq). The mixture was heated at reflux for 8 h then concentrated in vacuo. The residue was taken up in CH2Cl2, cooled to −40° C., and MeOH (1.4 eq) added while maintaining the internal temperature below −30° C. Aqueous NaHCO3 (1 eq) was added and the mixture allowed to warm to room temperature. The organic phase was separated and concentrated in vacuo. The crude residue was crystallized from EtOH to give methyl 6-chloro-5-nitronicotinate (90% yield)

reactant | DMF | 0.15 eq | CN(C)C=O | C3H7NO
reactant | 6-hydroxy-5-nitronicotinic acid | 1 eq | OC1=NC=C(C(=O)O)C=C1[N+](=O)[O-] | C6H4N2O5
reactant | SOCl2 | 4.7 eq | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 1.4 eq | CO | CH4O
reactant | NaHCO3 | 1 eq | C(=O)(O)[O-].[Na+]
product | methyl 6-chloro-5-nitronicotinate | 90% yield | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
